US04397864
A 300-ml flask was charged with 16.6 g of 4-fluorotoluene, 30.0 g of NBS, 0.5 g of benzoyl peroxide and 150 ml of carbon tetrachloride, and the mixture was refluxed for 2.0 hours. The reaction mixture was cooled to room temperature, and the formed precipitate was removed by filtration and the residual CCl4 solution was washed with dilute alkali and then with water, dried over Na2SO4, and evaporated under reduced pressure to give 28.8 g of crude 4-fluorobenzyl bromide.

reactant | 4-fluorotoluene | 16.6 g | FC1=CC=C(C=C1)C | C7H7F
reactant | NBS | 30.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
catalyst | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-fluorobenzyl bromide | 28.8 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
